US04122274
7-n-Butyl-3-(1H-tetrazol-5-yl)-4H-pyrido[1,2-a]pyrimidin-4-one
Aluminum chloride (0.89 g., 6.67 mmoles was carefully added to cold (-30°) tetrahydrofuran (42 ml.). Sodium azide (1.3 g., 20.0 mmoles was then added and the mixture heated at reflux for 40 minutes. Ethyl 2-cyano-3-(5-n-butyl-2-pyridylamino)acrylate (1.50 g., 5.49 mmoles) was added and the mixture heated under reflux for 18 hours. The cooled mixture was concentrated and the residue treated with ice water (50 ml.). The mixture was acidified to pH 3 with 6N hydrochloric acid. The mixture was filtered and the collected solid treated with boiling 3% aqueous sodium bicarbonate for 10 minutes. The mixture was filtered and the filtrate acidified to pH 4 with 6N hydrochloric acid. The precipitate was recrystallized from N,N-dimethylformamide to give the title compound (0.45 g., 30.4%), m.p. 284°-285° (decomp).

reactant | Aluminum chloride | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | Sodium azide | [N-]=[N+]=[N-].[Na+]
reactant | Ethyl 2-cyano-3-(5-n-butyl-2-pyridylamino)acrylate | 5.49 mmoles, 1.50 g | C(#N)C(C(=O)OCC)=CNC1=NC=C(C=C1)CCCC | C15H19N3O2
solvent | tetrahydrofuran | 42 ml | O1CCCC1 | C4H8O
product | 7-n-Butyl-3-(1H-tetrazol-5-yl)-4H-pyrido[1,2-a]pyrimidin-4-one | 0.45 g, 30.4% | C(CCC)C=1C=CC=2N(C(C(=CN2)C2=NN=NN2)=O)C1 | C13H14N6O
